US06603005B2
A suspension of 53.5 g of 4-hydroxy-6-methoxyquinoline-3-carboxylic acid in 1000 cm3 of diphenyl ether was heated with stirring, at a temperature of between 250° C. and 260° C., for 2 hours 45 minutes. The reaction mixture was cooled to about 20° C. After stirring for 16 hours at this temperature, the mixture was poured with stirring into 1 liter of pentane and then filtered. The cake obtained was washed with 3 times 100 cm3 of pentane and then with 3 times 100 cm3 of diisopropyl ether. After drying in air, 37 g of 4-hydroxy-6-methoxyquinoline were obtained in the form of a beige-colored solid.

reactant | 4-hydroxy-6-methoxyquinoline-3-carboxylic acid | 53.5 g | OC1=C(C=NC2=CC=C(C=C12)OC)C(=O)O | C11H9NO4
reactant | pentane | 1 liter | CCCCC | C5H12
solvent | diphenyl ether | 1000 cm3 | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 4-hydroxy-6-methoxyquinoline | 37 g | OC1=CC=NC2=CC=C(C=C12)OC | C10H9NO2
